US07786044B2
38. Preparation of 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(1-fluoroethyl)pyrimidine-4-carboxylic acid methyl ester (Compound 39)
6-Amino-5-(2-bromo-1-fluoroethyl)-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester (324 mg, 0.742 mmol), tri-n-butyltin hydride (0.396 mL, 1.484 mmol), and 2,2′-azobisisobutyronitrile (3.05 mg, 0.019 mmol) were combined in 1,2-dimethoxyethane (2.5 mL) and heated at 100° C. for 15 min in a CEM microwave reactor. The cooled reaction mixture was concentrated under vacuum then purified by flash chromatography on silica gel (dichloromethane/ethyl acetate gradient). A second purification by flash chromatography on silica gel (hexane/ethyl acetate gradient) yielded the title compound (162 mg, 61.0% yield) as a white solid, mp 150-152° C.: 1H NMR (CDCl3) δ 7.64 (dd, 1H), 7.22 (dd, 1H), 6.26 (dq, 1H), 5.73 (br s, 2H), 4.00 (d, 3H), 3.98 (s, 3H), 1.80 (dd, 3H).

reactant | 6-Amino-5-(2-bromo-1-fluoroethyl)-2-(4-chloro-2-fluoro-3-methoxyphenyl)pyrimidine-4-carboxylic acid methyl ester | 0.742 mmol, 324 mg | COC(=O)C1=NC(=NC(=C1C(CBr)F)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H13BrClF2N3O3
reactant | tri-n-butyltin hydride | 1.484 mmol, 0.396 mL | C(CCC)[SnH](CCCC)CCCC
solvent | 1,2-dimethoxyethane | 2.5 mL | COCCOC | C4H10O2
catalyst | 2,2′-azobisisobutyronitrile | 0.019 mmol, 3.05 mg | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
product | 6-Amino-2-(4-chloro-2-fluoro-3-methoxyphenyl)-5-(1-fluoroethyl)pyrimidine-4-carboxylic acid methyl ester | 162 mg, 61.0% yield | COC(=O)C1=NC(=NC(=C1C(C)F)N)C1=C(C(=C(C=C1)Cl)OC)F | C15H14ClF2N3O3
